US08937071B2
PdCl2(dppf) (23.21 mg, 0.032 mmol) was added to a solution of ethyl 3-(4-(2-(4-bromo-2-fluorophenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate (320 mg, 0.635 mmol), potassium acetate (187 mg, 1.904 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (193 mg, 0.761 mmol) in 1,4-dioxane (10 mL). The reaction mixture was stirred at 100° C. for 8 h. Then the solution was concentrated and distributed between EA and H2O. The combined organic extract was washed with brine, dried over Na2SO4, filtered and concentrated. The crude material was purified by preparative TLC (PE/EA=5:1, Rf=0.6) to yield a light yellow oil of ethyl 3-(4-(2-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate (300 mg, 0.490 mmol, 77% yield): 1H NMR (400 MHz, CD3OD) δ 7.94 (s, 1H), 7.68 (d, J=8.60 Hz, 1H), 7.50 (d, J=7.50 Hz, 1H), 7.33-7.41 (m, 2H), 7.22 (d, J=8.60 Hz, 1H), 4.12-4.15 (m, 2H), 3.78 (s, 2H), 3.07 (s, 2H), 1.33 (s, 12H), 1.22 (d, J=1.54 Hz, 3H), 1.15 (s, 6H); ES-LCMS m/z 552 (M+H).

reactant | ethyl 3-(4-(2-(4-bromo-2-fluorophenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate | 0.635 mmol, 320 mg | BrC1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(C(=O)OCC)(C)C)C(F)(F)F)F | C22H22BrF4NO3
reactant | potassium acetate | 1.904 mmol, 187 mg | C(C)(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.761 mmol, 193 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.032 mmol, 23.21 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(4-(2-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate | 0.490 mmol, 300 mg, 77% yield | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)CC(=O)NC1=CC(=C(C=C1)CC(C(=O)OCC)(C)C)C(F)(F)F | C28H34BF4NO5
